US05214037
To a suspension of lithium aluminum hydride (6.17 g : 0.163 Mol.) in tetrahydrofuran ( 600 ml) under ice cooling is added 1-trityl-1,2,3- triazol-4-ylcarboxylic acid methyl ester (40.0 g : 0.108 Mol.), and the mixture is stirred at room temperature for 1 hour. To the reaction mixture is added dropwise aqueous tetrahydrofuran under ice cooling. The mixture is neutralized with 10% hydrochloric acid, filtered to remove insoluble material, diluted with ethyl acetate, washed with brine, dried over sodium sulfate, and concentrated. The resulting crystals are washed with ether to give 1-trityl-1,2,3-triazol-4-yl- methanol (33.4 g) as white crystals. Yield: 91%. mp. 200° to 201° C. NMR δ (CDCl3) ppm: 2.4-2.9(brs, 1H), 4.76(s, 2H), 7.05-7.15(m, 6H), 7.3-7.4(m, 9H), 7.43(s, 1H).

reactant | lithium aluminum hydride | 0.163 Mol, 6.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-trityl-1,2,3- triazol-4-ylcarboxylic acid methyl ester | 0.108 Mol, 40.0 g | COC(=O)C=1N=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 1-trityl-1,2,3-triazol-4-yl- methanol | 33.4 g, Yield: 91% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NC(=C1)CO | C22H19N3O
